US07776857B2
In a 15 ml sealed pressure tube, was dissolved 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine (150 mg, 490 μmol) in 0.8 ml of DMSO. Sodium cyanide (72 mg, 1469 μmol) was added and the reaction was capped and stirred at 130° C. for 3 hours. The reaction was cooled to RT and purified via Gilson Reverse Phase HPLC eluting with a 12-75% gradient of ACN in water with 0.1% TFA. The product fractions were basified with saturated sodium bicarbonate and extracted into DCM. The DCM layers were dried over Na2SO4, filtered and concentrated in vacuo to afford 4-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenylamino)phthalazine 1-carbonitrile. MS: [M+H]=437.

reactant | 4-chloro-N-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenyl)phthalazin-1-amine | 490 μmol, 150 mg | ClC1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)SC1=CC=NC2=CC(=CN=C12)OC | C23H16ClN5OS
reactant | Sodium cyanide | 1469 μmol, 72 mg | [C-]#N.[Na+]
solvent | DMSO | 0.8 ml | CS(=O)C | C2H6OS
product | 4-(4-(7-methoxy-1,5-naphthyridin-4-ylthio)phenylamino)phthalazine 1-carbonitrile | COC1=CN=C2C(=CC=NC2=C1)SC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C#N | C24H16N6OS
